US05446146
ii) Benzyl 4-(2,3,4-trihydroxybenzyl)-1-piperazinecarbodithioate (Com. No. 100)
To a solution of 0.51 g of 35% formalin in 7.7 ml of ethanol was added under chilling with ice a solution of 1.5 g of benzyl 1-piperazinecarbodithioate in 7.5 ml of ethanol. The mixture was stirred at room temperature for 10 min. To the mixture was further added under chilling with ice a solution of 3.7 g of pyrogallol in 15.3 ml of ethanol at once. The mixture was then stirred for 2.5 hours at room temperature. Ethanol was evaporated under reduced pressure, and the residue was extracted with dichloromethane. The dichloromethane solution was washed with water and an aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent to give 2.17 g of the desired compound as a pale red powder, m.p. 125°-126° C. (decomp.), yield 92.9%.

reactant | formalin | 0.51 g | C=O | CH2O
reactant | benzyl 1-piperazinecarbodithioate | 1.5 g | N1(CCNCC1)C(=S)SCC1=CC=CC=C1 | C12H16N2S2
reactant | pyrogallol | 3.7 g | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
solvent | ethanol | 7.7 ml | C(C)O | C2H6O
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
solvent | ethanol | 15.3 ml | C(C)O | C2H6O
product | Benzyl 4-(2,3,4-trihydroxybenzyl)-1-piperazinecarbodithioate | 2.17 g, yield 92.9% | OC1=C(CN2CCN(CC2)C(=S)SCC2=CC=CC=C2)C=CC(=C1O)O | C19H22N2O3S2
